US08134001B2
In a manner similar to the method described in example 1d, 5-bromo-2-(4-trifluoromethyl-phenoxy)-benzaldehyde (2.47 g, 7 mmol) was reacted with 1,1,1,3,3,3-hexamethyldisilazane (1.5 mL, 7 mmol), n-butyllithium (2.5 M, 2.9 mL, 7 mmol), trimethylsilyl chloride (0.9 mL, 7 mmol), triethylamine (1.3 mL, 9 mmol) and acetyl chloride (0.5 mL, 9 mmol) to give crude 1-[5-bromo-2-(4-trifluoromethyl-phenoxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 5-bromo-2-(4-trifluoromethyl-phenoxy)-benzaldehyde | 7 mmol, 2.47 g | BrC=1C=CC(=C(C=O)C1)OC1=CC=C(C=C1)C(F)(F)F | C14H8BrF3O2
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 7 mmol, 1.5 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | 7 mmol, 2.5 M, 2.9 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 7 mmol, 0.9 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 9 mmol, 1.3 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 9 mmol, 0.5 mL | C(C)(=O)Cl | C2H3ClO
product | 1-[5-bromo-2-(4-trifluoromethyl-phenoxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene | BrC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)OC1=CC=C(C=C1)C(F)(F)F | C19H19BrF3NO2Si
